US06603005B2
17.3 cm3 of diisopropylamine in 650 cm3 of tetrahydrofuran were cooled to a temperature in the region of −75° C. and 76 cm3 of a 1.6M solution of butyl lithium in hexane were added, with stirring and under an inert atmosphere, while maintaining the temperature at about −70° C. After stirring for 20 minutes at a temperature in the region of −75° C., a solution of 11.9 g of 3-fluoroquinoline in 200 cm3 of tetrahydrofuran was added. The solution obtained was stirred for a further 4 hours at −75° C., followed by addition of a solution of 32.2 g of double-sublimed iodine in 150 cm3 of tetrahydrofuran. After stirring for 2 hours at a temperature in the region of −40° C., the reaction mixture was hydrolyzed with 200 cm3 of a tetrahydrofuran/water mixture (90/10 by volume) and then with 200 cm3 of saturated sodium chloride solution. In the region of 20° C., the mixture was diluted with 300 cm3 of ethyl acetate and washed with twice 250 cm3 of saturated sodium chloride solution. The organic phase was dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 50° C. The residue obtained was purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 20-45μ; diameter 10 cm; height 30 cm), eluting with dichloromethane and collecting 100-cm3 fractions. Fractions 45 to 80 were combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 15.1 g of 3-fluoro-4-iodoquinoline were obtained in the form of a cream-colored solid melting at 110° C.

reactant | diisopropylamine | 17.3 cm3 | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | 3-fluoroquinoline | 11.9 g | FC=1C=NC2=CC=CC=C2C1 | C9H6FN
reactant | iodine | 32.2 g | II | I2
reactant | sodium chloride | 200 cm3 | [Cl-].[Na+]
solvent | tetrahydrofuran | 650 cm3 | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran water | 200 cm3 | O1CCCC1.O
product | 3-fluoro-4-iodoquinoline | 15.1 g | FC=1C=NC2=CC=CC=C2C1I | C9H5FIN
